US05455351
C. N-(t-Butyl)-4-(benzyloxycarbonyl)piperazine-2-carboxamide
A solution of 14.2 g (33.9 mmol) of N-(t-butyl)-4-(benzyloxycarbonyl)-1-(t-butyloxycarbonyl)piperazine-2-carboxamide in 100 ml of dichloromethane was treated with 20 ml of trifluoroacetic acid. The resulting solution was stirred at ambient temperature for 3 h, concentrated in vacuo, and treated with 800 ml of ethyl acetate. The solution was washed with 1 N NaOH. The aqueous layer was extracted with two portions of ethyl acetate, and the combined organic layers were washed with saturated brine, dried over MgSO4, and concentrated in vacuo. Silica gel chromatography of the residue using first 2% then 4% methanol in chloroform provided 8.42 g (78%) of the desired compound. 1H NMR (CDCl3)δ1.34 (s, 9H), 2.8 (m, 1H), 3.0 (m, 3H), 3.21 (dd, J=9, 4 Hz, 1H), 3.9 (m, 1H), 4.2 (m, 1H), 5.14 (AA', 2H), 6.6 (br, 1H), 7.3-7.4 (m, 5H). Mass spectrum: (M+H)+ =320.

reactant | N-(t-butyl)-4-(benzyloxycarbonyl)-1-(t-butyloxycarbonyl)piperazine-2-carboxamide | 33.9 mmol, 14.2 g | C(C)(C)(C)NC(=O)C1N(CCN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C22H33N3O5
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(t-Butyl)-4-(benzyloxycarbonyl)piperazine-2-carboxamide | 8.42 g, 78% | C(C)(C)(C)NC(=O)C1NCCN(C1)C(=O)OCC1=CC=CC=C1 | C17H25N3O3
